US06822094B2
n) Spirobifluorene-4-carboxylic acid
 In a 2 l flask, 100 g of fluorenone were dissolved in 1000 ml of dry xylene and admixed while stirring with 200 g of dry NaOH. The mixture was subsequently refluxed for 70 hours. After cooling, the mixture was filtered with suction and the residue was admixed with about 2 l of water. The aqueous suspension was filtered with suction and the precipitate was again slurried with toluene, filtered off with suction and dried. This intermediate was dissolved using about 5 ml of glacial acetic acid per 1 g by refluxing in a 500 ml two-necked flask fitted with reflux condenser and drying tube, 20 ml of concentrated HCl were added and the mixture was refluxed for 5 hours. The reaction mixture was evaporated to about half its volume and was subsequently poured into four times its volume of H2O. The precipitate formed was filtered off with suction, washed well with H2O and dried. To purify it further, it was dissolved at room temperature in an alkaline MeOH/water (10:1) mixture and shaken with toluene. The MeOH/water phase was separated off and, after acidification with hydrochloric acid, poured into water. The spirobifluorene-4-carboxylic acid which was precipitated was filtered off with suction, washed with water and dried.

reactant | NaOH | 200 g | [OH-].[Na+]
reactant | fluorenone | 100 g | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
solvent | xylene | 1000 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Spirobifluorene-4-carboxylic acid | C12(C=CC(=C3C4=CC=CC=C4C=C13)C(=O)O)C=CC=C1C3=CC=CC=C3C=C12 | C26H16O2
